US07612114B2
4-{2-{Ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol
Synthesized from [2-(4-benzyloxyphenyl)ethyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine according to an analogous synthetic method to Example 36, [2-(4-benzyloxyphenyl)ethyl]ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (976 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (835 mg).

reactant | [2-(4-benzyloxyphenyl)ethyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCNC1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C32H33NO2
reactant | [2-(4-benzyloxyphenyl)ethyl]ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 976 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN(C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC)CC | C34H37NO2
product | 4-{2-{Ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | 835 mg | C(C)N(CCC1=CC=C(C=C1)O)C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C27H31NO2
